US08258169B2
To the stirred solution of 1,3,5-trichloro-2-((E)-2-nitro-propenyl)-benzene (5 g, 18.72 mmol) in H2O (20 ml) and MeOH (60 ml), iron powder (2.355 g, 42.12 mmoles) and conc. HCl (11.5 ml, 112 mmol) was added at ambient temperature under nitrogen environment. The reaction mixture was stirred at 70° C. for 1 hour. After 1 hour additional iron powder (2.355 g, 42.12 mmoles) and conc. HCl (11.5 ml, 112 mmol) was added, while stirring was continued for 2 hours at 70° C. After completion of the reaction, (confirmed by TLC) reaction mass was cooled to ambient temperature and MeOH was evaporated. The resulting residue was diluted with water and extracted with ethyl acetate (3×80 ml). Combined ethyl acetate layer was washed with water and brine and dried over anhydrous Na2SO4. The organic layer was concentrated under vacuum. The crude material was purified by column chromatography (silicagel 60-120μ mesh, hexane/ethylacetate 95:5) to afford 3.7 g (83.3% of theory) of 1-(2,4,6-Trichloro-phenyl)-propan-2-one.

reactant | 1,3,5-trichloro-2-((E)-2-nitro-propenyl)-benzene | 18.72 mmol, 5 g | ClC1=C(C(=CC(=C1)Cl)Cl)\C=C(/C)\[N+](=O)[O-] | C9H6Cl3NO2
reactant | HCl | 112 mmol, 11.5 ml | Cl | ClH
reactant | HCl | 112 mmol, 11.5 ml | Cl | ClH
reactant | H2O | 20 ml | O | H2O
solvent | MeOH | 60 ml | CO | CH4O
catalyst | iron | 42.12 mmoles, 2.355 g | [Fe] | Fe
catalyst | iron | 42.12 mmoles, 2.355 g | [Fe] | Fe
product | 1-(2,4,6-Trichloro-phenyl)-propan-2-one | 3.7 g, 83.3% | ClC1=C(C(=CC(=C1)Cl)Cl)CC(C)=O | C9H7Cl3O
